Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
altered mental status  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ yo female with a past medical history of 
severe ___ disease and dementia, who presents for 
respiratory distress. 

She presented after having one day of progressively worsening 
tachypnea. She was noted to be less responsive in terms of no 
longer tracking with her eyes (which is the extent of her 
baseline). She was found to be hypoxic on room air at her 
___ nursing facility, at which time she was placed on NRB 
and O2 improved. She was reported to have no cough. Respirations 
at baseline.  

In the ED, initial vitals: 110 | 18 | 100%O2 [BiPAP] ; BP 
___  
#Exam notable for  
#Labs were notable for:  
- WBC 9.8 (89.9% neuts) | H/H 15.4/52.5 (MCV 107) | platelets 
188  
 162 | 120 | 79  
 ---------------< 165 (AG 11)  
 5.1 | 31 | 1.6  
 Ca 9.1 | Mg 3.1 | Phos 7.7  
-CK 241 | MB 2 | Trop 0.07  
-proBNP 359  
-VBG 7.00 | 167 | 61 | 44  
-ABG 7.00 | 154 | 360 | 41  
-Lactate 0.5  
-UA Hazy, Spec ___ 1.028, pH 6.5, Few bacteria, 3WBC, 30 
protein  
-Flu pending  

#Imaging:  
- CTA CHEST WITH AND WITHOUT CONTRAST:  
1. Severely limited examination due to motion artifact and bolus 
timing. Within these limitations, no large central filling 
defects to suggest pulmonary embolism.  
2. Dense consolidation within the left lower lobe measuring up 
to 2.4 cm, which is triangular in shape. Although this likely 
represents pneumonia/aspiration, pulmonary infarction remains 
within the differential. This consolidation should be followed 
to resolution with a chest CT in 3 months.  
3. 6 cm spiculated mixed density nodule within the right upper 
lobe, which should also be followed up with a chest CT.  

#MEDICATIONS AND FLUIDS:  
-2500cc fluid, 1L started prior to transport  
-101___ Levaquin  
-1100 Cefepime  
-1230 Vancomycin 1g  
-Heparin gtt with bolus  
-Rectal Acetaminophen  
-Rectal aspirin  

She was placed on BiPAP given she has a MOLST form stating she 
is DNR/DNI. However, her serial VBG did not improve. The MICU 
attending went to the ED to discuss goals of care with the 
patient's daughters (one is a medical resident and the HCP). 

Per extended note in OMR, the patient was obtunded, with some 
clonus, agonally breathing. BIPAP is not effective, mask is 
leaking. Patient is discussed to have possibly had a stroke but 
head imaging would not change her course. The plan had been to 
transition to comfort measures only with morphine drip 
initiation to treat any respiratory distress.
 
REVIEW OF SYSTEMS:  Unable to obtain 

 
Past Medical History:
Advanced ___ with dementia
 
Social History:
___
Family History:
Unable to be obtained

 
Physical Exam:
ADMISSION EXAMINATIION
=======================
VITALS:  99.8 74/49 99 20 74% BiPAP
GENERAL: Uncomfortable, agonally breathing, BiPAP mask in place, 
significant muscle wasting
CARDIAC:  Mildly tachycardic, no m/g/r
LUNG: Rhonchorous breath sounds throughout
ABDOMEN: Soft, normoactive bowel sounds, nondistended
EXTREMITIES:  Warm, no edema bilaterally 
NEURO:  Obtunded, not following commands
 
DISCHARGE EXAMINATION
======================
Patient was expired.
Pupils dilated and fixed.
Absent breath and heart sounds.
No response to painful stimuli.
No carotid or radial pulses.
 
Pertinent Results:
ADMISSION LABS
===============
___ 10:15AM BLOOD WBC-9.8 RBC-4.90 Hgb-15.4 Hct-52.5* 
MCV-107* MCH-31.4 MCHC-29.3* RDW-12.7 RDWSD-50.8* Plt ___
___ 10:15AM BLOOD Neuts-89.9* Lymphs-5.4* Monos-4.1* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.77* AbsLymp-0.53* 
AbsMono-0.40 AbsEos-0.00* AbsBaso-0.02
___ 10:15AM BLOOD ___ PTT-28.0 ___
___ 10:15AM BLOOD Glucose-165* UreaN-79* Creat-1.6* Na-162* 
K-5.1 Cl-120* HCO3-31 AnGap-17
___ 10:15AM BLOOD CK(CPK)-241*
___ 10:15AM BLOOD CK-MB-2 cTropnT-0.07* proBNP-359*
___ 10:15AM BLOOD Calcium-9.1 Phos-7.7* Mg-3.1*
___ 10:27AM BLOOD ___ pO2-61* pCO2-167* pH-7.00* 
calTCO2-44* Base XS-3
___ 11:25AM BLOOD Type-ART pO2-360* pCO2-154* pH-7.00* 
calTCO2-41* Base XS-1
___ 12:48PM BLOOD ___ pO2-39* pCO2-141* pH-7.03* 
calTCO2-40* Base XS-0
___ 12:48PM BLOOD Na-161* K-5.1 Cl-118*

IMAGING
=========
___ CXR
Increased retrocardiac density, consistent with left lower lobe 
collapse and/or consolidation.  On the contemporaneous CT scan, 
the main differential was pneumonia or aspiration, though 
pulmonary infarction remained in the differential.  Please see 
details and follow-up recommendations in the separate report 
from the ___ chest CT scan. 
  
Please also see the separate CT scan report for detailed 
description of a small nodule in the right upper lobe for which 
follow-up chest CT examination is recommended.  This is not 
visualized on this chest x-ray, due to limitations of the 
modality. 
  
Relatively large pulmonary cyst noted in the right midlung, also 
better 
visualized by CT. 

___ CTA CHEST
1. Severely limited examination due to motion artifact and bolus 
timing. Within these limitations, no large central filling 
defects to suggest 
pulmonary embolism. 
2. Dense consolidation within the left lower lobe measuring up 
to 2.4 cm, which is triangular in shape.  Although this likely 
represents pneumonia/aspiration, pulmonary infarction remains 
within the differential. This consolidation should be followed 
to resolution with a chest CT in 3 months. 
3. 6 cm spiculated mixed density nodule within the right upper 
lobe, which 
should also be followed up with a chest CT. 

MICROBIOLOGY
===========
___ 10:50 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH

___ 10:15 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

 
Brief Hospital Course:
BRIEF SUMMARY
==============
___ yo female with a past medical history of severe ___ 
disease and dementia, who presents for respiratory distress, 
found to have acute hypercarbic respiratory failure.  

ACTIVE ISSUES
=============
# ACUTE HYPERCAPNEIC RESPIRATORY FAILURE with RESPIRATORY 
ACIDOSIS: The patient presented after being noted to have 
progressive tachypnea and report of being less responsive (no 
longer tracking with her eyes, which was her prior baseline). 
She was found to have hypoxia at her living facility and was 
brought to the ED. Her initial pH was 7.00 with pCO2 of 167. CTA 
was negative for PE but with poor image quality but did show 
dense consolidation within the left lower lobe measuring up to 
2.4 cm which would be concerning for aspiration. She received a 
dose of vancomycin, cefepime, and levofloxacin. She briefly 
received empiric treatment of PE with heparin gtt. There was 
concern that possibly a neurologic insult may have been the 
initial cause. However, patient was unstable for further imaging 
and there was low likelihood that it would change management. 
She had a MOLST form stating she was DNR/DNI, and this was 
confirmed by the patient's daughter ___, who is her health 
care proxy. Per goals of care discussion performed in the ED, 
the plan was to focus on comfort and all other medications were 
discontinued. She was placed on morphine gtt in the ED and then 
admitted to the FICU. On arrival, she was still on BiPAP but 
this was discontinued after further extensive discussion with 
the family. The patient expired quietly and peacefully at 23:50 
on ___ in the presence of family. 

# HYPERNATREMIA: Patient with hypernatremia to 162 with unclear 
baseline. This was felt to be most likely due to poor PO intake 
and decreased free water intake from advanced ___. She 
was made comfort measures only. 

# ACUTE KIDNEY INJURY: Her creatinine on arrival was 1.6 with no 
clear baseline. Etiology most likely from sepsis and 
dehydration. She was made comfort measures only. 

CHRONIC ISSUES
=================
# ADVANCED ___ DISEASE: Patient with advanced dementia 
as a result of her disease. At baseline, she was noted to only 
track with her eyes. 

 
Medications on Admission:
UNKNOWN
 
Discharge Medications:
None, patient expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient expired
 
Discharge Condition:
Patient expired
 
Discharge Instructions:
Patient expired
 
Followup Instructions:
___